US07524965B2
The dibenzyl-(4-iodo-2,5-dimethylphenyl)amine hydrochloride was transferred to a 3 L flask and toluene (1 L) and 1 M aqueous sodium hydroxide (1 L) were added. The resulting mixture was stirred for 1 hour and then the layers were separated. The organic layer was washed with dilute brine (500 mL) and the solvent was removed by rotoevaporation to provide dibenzyl-(4-iodo-2,5-dimethylphenyl)amine (80 g) as a semi-solid thick oil. (Alternatively, dichloromethane can be used in place of toluene in this step). 1H NMR (300 MHz, DMSO-d6) δ 2.05 (s, 3H), 2.19 (s, 3H), 3.90 (s, 4H), 6.91 (s, 1H), 7.05-7.20 (m, 1H), 7.42 (s, 1H); MS [M+H+] found 428.

reactant | dibenzyl-(4-iodo-2,5-dimethylphenyl)amine hydrochloride | Cl.C(C1=CC=CC=C1)N(C1=C(C=C(C(=C1)C)I)C)CC1=CC=CC=C1
reactant | sodium hydroxide | 1 M, 1 L | [OH-].[Na+]
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | dibenzyl-(4-iodo-2,5-dimethylphenyl)amine | 80 g | C(C1=CC=CC=C1)N(C1=C(C=C(C(=C1)C)I)C)CC1=CC=CC=C1 | C22H22IN
